US06982260B1
(8-Cyclopentyl-7-methoxy-quinazolin-2-yl)-phenyl-amine
A mixture of 2-chloro-7-methoxy-8-(2-propyl)quinazoline (200 mg, 0.76 mmol) and aniline (212 mg, 2.28 mmol) in acetonitrile (3 mL) was heated at 90° C. for 60 hours in a sealed tube. The solvent was removed under reduced pressure, to the residue 5% sodium carbonate solution was added. The product was extracted with ethyl acetate (3×40 mL). The combined organic extract was washed with brine, dried (Na2SO4), and concentrated. The product was purified on a column of silica gel to give the title compound as a yellow solid (90 mg, 37%), mp 187–188° C.; 1H NMR (CDCl3) δ: 1.72–2.30 (complex, 8H, 4×CH2), 3.96 (s, 3H, OCH3), 4.33 (m, 1H, CH), 7.23–7.41 (m, 2H, Ar-H), 7.58 (d, 1H, Ar-H), 7.83 (d, 2H, Ar-H), 8.93 (s, 1H, Ar-H); MS: m/z 319.81, C20H21N3O; Analysis: Calcd.: C, 75.21; H, 6.63; N, 13.16. Found: C, 75.03; H, 6.73; N, 13.05.

reactant | 2-chloro-7-methoxy-8-(2-propyl)quinazoline | 0.76 mmol, 200 mg | ClC1=NC2=C(C(=CC=C2C=N1)OC)C(C)C | C12H13ClN2O
reactant | aniline | 2.28 mmol, 212 mg | NC1=CC=CC=C1 | C6H7N
reactant | acetonitrile | 3 mL | C(C)#N | C2H3N
product | (8-Cyclopentyl-7-methoxy-quinazolin-2-yl)-phenyl-amine | 90 mg, 37% | C1(CCCC1)C=1C(=CC=C2C=NC(=NC12)NC1=CC=CC=C1)OC | C20H21N3O
